* AD8207 SPICE Macro-model               10/11, Rev. A
*                                        PRB IAP ADI
*
* Revision History:
*
* Not Modeled:
*   Temperature effects
*
*
* Node assignments
*                 inverting input
*                 |   ground
*                 |   |    reference 2
*                 |   |    |     supply voltage range pin
*                 |   |    |     |     output
*                 |   |    |     |     |   positive supply
*                 |   |    |     |     |   |  reference 1
*                 |   |    |     |     |   |  |     non-inverting input
*                 |   |    |     |     |   |  |     |
.SUBCKT AD8207   -In  Gnd  VRef2 Range Out Vs VRef1 +In
R1 +In N009 120e3
R3 N003 N010 120e3
R6 N006 N005 9.10614e3
R4 N006 N010 100e3
R5 N011 N006 100e3
R2 N009 N005 100e3
R11 N005 VRef_Mid 50e3
R9 N004 VRef1 100.597375e3
R10 N004 VRef2 99.4026e3
R12 N014 N009 60.003e3
R13 N010 N014 59.997e3
R8 N010 N024 5.9997e3
R7 N024 N009 6.0003e3
R14 N025 0 10e9
R15 N013 0 10e9
G1 0 N025 CMV N014 1
G2 0 N013 N009 N010 1
Vos N003 -In 200e-6
D1 N019 N012 DX
D2 N026 N019 DX
V2 N026 N027 .372
V3 N007 N012 .302
E4 N016 N015 value={if (v(Range)<.05, 12.288e-3,7.464e-3)}
V_Current_Sense N022 N021 0
E2 N017 N016 VRef_Mid 0 -1.703e-3
H1 VS N007 V_Current_Sense -133
H2 N027 0 V_Current_Sense 61
H3 N015 N011 V_Current_Sense -4.22
C1 N020 0 1.06103e-12
R16 N020 0 1e6
G3 0 N020 N017 0 1e-6
C2 N018 0 49.115e-15
R18 0 N018 1e6
E1 N021 0 N019 0 1
R17 0 N019 1e6
C3 N019 0 49.115e-15
G4 0 N018 N020 0 1e-6
R19 N023 N022 2
G5 0 N019 N018 0 1e-6
V5 N001 0 0
R20 N008 0 .0166
H4 Out N023 V5 10250
G6 VS 0 value={if((v(Range)<.5), 1.6e-3, 1.6e-3)}
R21 +In Vcm 10e9
R22 Vcm -In 10e9
G8 VS 0 value={if(v(Range)<.05, if((v(Vcm)<65.1) & (v(Vcm)>-10.1), v(Vcm)*1.278e-6, v(Vcm)*164.34e-6),if((v(Vcm)<30.1) & (v(Vcm)>-10.1), v(Vcm)*1.278e-6, v(Vcm)*164.34e-6))}
E3 VRef_Mid N004 value={if(v(Vref1)==v(Vref2),(v(VRef1)*3e-3),0)}
E5 N024 0 N025 0 1
E6 N011 0 N013 0 1
L1 N002 N001 650.197e-9
C4 N002 P001 70e-6
L2 N008 N002 320e-9
R23 P001 N001 .03
E99 CMV 0 value={if (v(Range) <.050 , 3.396 , 2.064)}
* Common Mode Control Amplifer Set by Range Pin
* Bandwidth
* Transient Response
.MODEL DX D(CJO=1F RS=.1)
* Spectral Noise
* Output Vs Load
* Is Vs Vcm
* Supply Current
* Ratiometric Accuracy
* Ref Gain Accuracy
.backanno
.ends
